* Simulations of the PA input matcher

.include ImpedanceMatchers.cir

.param measimp = 0

.if (measimp == 0)
V1 ina 0 dc 0 AC 1 sin(1 0 435MEG 0 0 0)
Rsrc ina in  50
X1 in a1 ImpMatchPAIn
X2 a1 out out 0 PAInImpedance
.endif

.if (measimp == 1)
I1 0 in dc 0 ac 1
X1 in a1 ImpMatchPAIn
X2 a1 x1 x1 0 PAInImpedance
.endif

.control

alterparam measimp = 0
reset
ac lin 5000 1Meg 1000meg
* 9.07 = 2 * sqrt(Zin / Zout) = 2 * sqrt(50 / 2.43)
plot title "PA Input Match Loss" db(9.07 * v(out) / v(ina))

alterparam measimp = 1
reset
ac lin 5000 400Meg 500meg
plot title "PA Input Match Impedance" v(in) vi(in)
.endc
